US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 2-chloromethyl-5-phenylbenzoxazole to give 2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-phenylbenzoxazole. The yield was 77%. Recrystallization from ethyl acetate-hexane gave pale yellow plates, mp 123-124° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 2-chloromethyl-5-phenylbenzoxazole | ClCC=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C14H10ClNO
product | 2-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-phenylbenzoxazole | yield was 77% | N1(C=NC=C1)CCCC1=CC=C(OCC=2OC3=C(N2)C=C(C=C3)C3=CC=CC=C3)C=C1 | C26H23N3O2
